* C:\Users\clee4\Documents\2021-2022\AD Comms\AnalogDigitalComms_HardwareRadio\colpitts\colpitts.asc
V1 +5V 0 5
V2 +2.5V 0 2.5
XU2 +2.5V N002 +5V 0 N003 LT1413
XU3 +2.5V N011 +5V 0 N012 LT1413
R4 N002 carrier 40000k
R5 N011 N013 40000k
D1 N002 N003 D
D2 N011 N012 D
R6 N005 N003 40000k
R7 N005 N012 40000k
XU4 +2.5V N005 +5V 0 N006 LT1413
R8 N006 N005 40000k
D3 N006 N007 D
XU5 +2.5V N007 +5V 0 Vout LT1413
R9 Vout N007 40000k
L2 N001 N009 10m
R10 N004 N009 47k
R11 output1 N004 160k
R12 output1 N001 47k
C3 N001 0 0.22µ
C4 N009 0 0.22µ
XU6 +2.5V N004 +5V 0 output1 LT1413
V4 N013 0 SINE(2.5 .25 25000)
R16 0 N010 10k
C1 N010 0 20n
D7 Vout N010 D
XU1 output1 carrier +5V 0 carrier LT1413
XU7 N010 N008 +5V 0 N008 LT1413
R1 N008 message 10k
C2 message 0 2.2n
.model D D
.lib C:\Users\clee4\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 0.101 0.1 uic
.lib LTC.lib
.backanno
.end
